US06174877B1
2-(6-Amino-2-pyridyl)ethanol
Lithium alumnium hydride (114 mg) was dissolved in tetrahydrofuran (10 ml). To the solution was added dropwise, at 0° C., a solution of ethyl 2-(6-amino-2-pyridyl)acetate (0.54 g) in tetrahydrofuran (4 ml). The mixture was stirred for 15 minutes at the same temperature. To the reaction mixture were added water (0.12 ml) and 1N sodium hydroxide (0.36 ml), successively. Resulting insolubles were filtered off, and the filtrate was concentrated. The concentrate was purified by means of a column chromatography (carrier: silica gel, 30 g, developing solvent: ethyl acetate-acetone, 4:1) to afford the title compound (0.23 g) as an oily product.

reactant | Lithium | [Li] | Li
reactant | hydride | 114 mg | [H-]
reactant | ethyl 2-(6-amino-2-pyridyl)acetate | 0.54 g | NC1=CC=CC(=N1)CC(=O)OCC | C9H12N2O2
reactant | sodium hydroxide | 1N, 0.36 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 0.12 ml | O | H2O
product | 2-(6-Amino-2-pyridyl)ethanol | 0.23 g | NC1=CC=CC(=N1)CCO | C7H10N2O
